US04016166
To a solution of 2.6 g of 2-(m-nitroanilino)-N-methylbenzamide and 20 ml of tetrahydrofuran was added 0.86 g of sodium amide, and the whole was stirred for 30 minutes at room temperature. To this was added dropwise under cooling 3.6 g of phenyl isocyanate, and the mixture was stirred for one hour at room temperature, and then refluxed for 4 hours. After the reaction was finished, the solvent was distilled off from the resulting mixture. The residue thus obtained was recrystallized from methanol to give 2.2 g of 1-(m-nitrophenyl)-3-methylquinazoline-2,4(1H, 3H)-dione as colorless needles, melting at 241°-242° C.

reactant | 2-(m-nitroanilino)-N-methylbenzamide | 2.6 g | [N+](=O)([O-])C=1C=C(NC2=C(C(=O)NC)C=CC=C2)C=CC1 | C14H13N3O3
reactant | sodium amide | 0.86 g | [NH2-].[Na+]
reactant | phenyl isocyanate | 3.6 g | C1(=CC=CC=C1)N=C=O | C7H5NO
reactant | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | 1-(m-nitrophenyl)-3-methylquinazoline-2,4(1H, 3H)-dione | 2.2 g | [N+](=O)([O-])C=1C=C(C=CC1)N1C(N(C(C2=CC=CC=C12)=O)C)=O | C15H11N3O4
